US07279580B2
An ice-cooled solution of 5-bromo-2-fluorophenol (1.91 g, 10 mmol), (1-methyl-1H-[1,2,3]triazol-4-yl)methanol (1.24 g, 11 mmol) and triphenylphosphine (3.93 g, 15 mmol) in tetrahydrofuran (50 ml) was treated dropwise with diisopropyl azodicarboxylate (3.03 g, 15 mmol) over 10 min. The resulting mixture was stirred to ambient temperature over 12 h and then glacial acetic acid (1 ml) was added. The reaction mixture was concentrated in vacuo then partitioned between ethyl acetate and 0.01N sodium hydroxide solution. The organics were washed with water, brine, dried over anhydrous magnesium sulphate and concentrated to give an oil. This oil was purified by chromatography on silica gel, eluting with isohexane on a gradient of ethyl acetate (20-50%). Product-containing fractions were concentrated and the resulting residue triturated with 10% ether in isohexane to furnish 4-(5-bromo-2-fluorophenoxymethyl)-1-methyl-1H-[1,2,3]triazole as a white solid (1.9 g, 66%): δH (360 MHz, d6-DMSO) 4.06 (3H, s), 5.25 (2H, s), 7.10-7.20 (2H, m), 7.55-7.70 (1H, m), 8.19 (1H, s).

reactant | 5-bromo-2-fluorophenol | 10 mmol, 1.91 g | BrC=1C=CC(=C(C1)O)F | C6H4BrFO
reactant | (1-methyl-1H-[1,2,3]triazol-4-yl)methanol | 11 mmol, 1.24 g | CN1N=NC(=C1)CO | C4H7N3O
reactant | triphenylphosphine | 15 mmol, 3.93 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 15 mmol, 3.03 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 4-(5-bromo-2-fluorophenoxymethyl)-1-methyl-1H-[1,2,3]triazole | 1.9 g, 66% | BrC=1C=CC(=C(OCC=2N=NN(C2)C)C1)F | C10H9BrFN3O
